### PR TITLE
refactor: Unbundle equivalences

### PR DESCRIPTION
**Pull request by Jlh18**
I'm trying to re-do all the `PtpEquiv` and `compDomEquiv` lemmas, writing out everything explicitely and unbundled. So far, it has reduced many of the slow-downs caused by heavy type checking due to nested dependent types.

Making it a WIP PR so that others may join me. I will make some issues directly relating to this branch

### CODE REVIEW

**Comment by Jlh18** [comment]
Sigma is basically done! There is one sorry'd lemma in the sigma file remaining, which @u5943321 is working on. We had a proof of it before, but it was ugly and it broke during a refactor so we are working on a better version.

There are many lemmas needed for this that are living in other files, mostly relating the universal property of `PTp` and `compDom`. @SSSPigeon is working on those, and one of her new definitions is already used here `NaturalModelBase.compDomEquiv.fst`.

File: GroupoidModel/ForMathlib.lean [hunk 1]
```diff
@@ -165,9 +165,10 @@ end
 
 namespace Grothendieck
 
-variable {Γ : Type u} [Category.{v} Γ] {A : Γ ⥤ Cat.{v₁,u₁}} {x y : Grothendieck A}
+variable {Γ : Type*} [Category Γ] {A : Γ ⥤ Cat}
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:168]: Using variables not annotated with universe levels can sometimes cause Lean to infer weird universe constraints; see [here](https://github.com/sinhp/Poly/pull/10#issue-2567563797).

File: GroupoidModel/ForMathlib.lean [hunk 2]
```diff
@@ -512,6 +527,13 @@ namespace Grpd
 abbrev homOf {C D : Type u} [Groupoid.{v} C] [Groupoid.{v} D] (F : C ⥤ D) :
     Grpd.of C ⟶ Grpd.of D := F
 
+lemma homOf_id {A : Type u} [Groupoid.{v} A] : Grpd.homOf (𝟭 A) = 𝟙 _ :=
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:530]:
```suggestion
@[simp] lemma homOf_id {A : Type u} [Groupoid.{v} A] : Grpd.homOf (𝟭 A) = 𝟙 _ :=
```

File: GroupoidModel/Groupoids/Sigma.lean [hunk 3]
```diff
@@ -557,93 +509,387 @@ def assoc : ∫(sigma A B) ⥤ ∫(B) :=
...
+@[simp] theorem fst_obj_fiber {x} : ((fst B).obj x).fiber = x.fiber.base := by
+  rfl
+
+@[simp] theorem fst_map_fiber {x y} (f : x ⟶ y) : ((fst B).map f).fiber = f.fiber.base := by
+  simp [fst, fstAux']
+
+@[simp] theorem snd_obj_fiber {x} : ((snd B).obj x).fiber = x.fiber.fiber := by
+  simp [snd, assoc]
+
+-- NOTE: using `eqToHom rfl` instead of `𝟙 _` is often better for dependent rewriting
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Sigma.lean:566]: ?

File: GroupoidModel/Groupoids/Sigma.lean [hunk 4]
```diff
@@ -557,93 +509,387 @@ def assoc : ∫(sigma A B) ⥤ ∫(B) :=
...
+section
+
+variable {Γ : Type*} [Category Γ] {A : Γ ⥤ Grpd} (B : ∫(A) ⥤ Grpd)
+  (αβ : Γ ⥤ PGrpd) (hαβ : αβ ⋙ forgetToGrpd = sigma A B)
+
+/--  Let `Γ` be a category.
+For any pair of functors `A : Γ ⥤ Grpd` and `B : ∫(A) ⥤ Grpd`,
+and any "groupoid-term", meaning a functor `αβ : Γ ⥤ PGrpd`
+satisfying `αβ ⋙ forgetToGrpd = sigma A B : Γ ⥤ Grpd`,
+there is a groupoid-term `α : Γ ⥤ PGrpd` such that `α ⋙ forgetToGrpd = A`,
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Sigma.lean:603]:
```suggestion
there is a groupoid-term `α : Γ ⥤ PGrpd` such that `α ⋙ forgetToGrpd = A` (`fst'_forgetToGrpd`),
```

File: GroupoidModel/Groupoids/Sigma.lean [hunk 5]
```diff
@@ -557,93 +509,387 @@ def assoc : ∫(sigma A B) ⥤ ∫(B) :=
...
+a "groupoid-type" `B' : ∫(α ⋙ forgetToGrpd) ⥤ Grpd`,
+and a groupoid-term `β : Γ ⥤ PGrpd` such that `β ⋙ forgetToGrpd = sec _ α rfl ⋙ B'`
+
+This is `α` in the above description `α ⋙ forgetToGrpd = A` -/
+def fst' : Γ ⥤ PGrpd := sec (sigma A B) αβ hαβ ⋙ fst B
+
+/-- This is the equation -/
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Sigma.lean:610]:
```suggestion
```

File: GroupoidModel/Groupoids/Sigma.lean [hunk 6]
```diff
@@ -652,220 +898,124 @@ open Limits
...
+  · rw [← smallU.compDom.fst_forgetToGrpd]
+    dsimp only [lift]
+    rw [smallU.compDom.fst_mk, sigma.fst'_forgetToGrpd]
+  · apply HEq.trans (smallU.compDom.dependent_heq _).symm
+    rw [lift, smallU.compDom.dependent_mk]
+    dsimp [sigma.dependent']
+    simp [map_id_eq, Functor.id_comp]
+    apply map_eqToHom_comp_heq
+
+theorem hom_ext (m n : y(Γ) ⟶ smallU.compDom.{v})
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Sigma.lean:950]: `open smallU`?

File: GroupoidModel/Russell_PER_MS/NaturalModel.lean [hunk 7]
```diff
@@ -216,6 +217,39 @@ variable (M : NaturalModelBase Ctx)
 @[simps] def uvPolyTp : UvPoly M.Tm M.Ty := ⟨M.tp, inferInstance⟩
 def Ptp : Psh Ctx ⥤ Psh Ctx := M.uvPolyTp.functor
 
+-- TODO move to ForPoly
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/NaturalModel.lean:220]: ?

File: GroupoidModel/Russell_PER_MS/NaturalModel.lean [hunk 8]
```diff
@@ -230,6 +264,52 @@ def Ptp_equiv {Γ : Ctx} {X : Psh Ctx} :
     (Equiv.sigmaCongrRight fun _ =>
       (M.pullbackIsoExt _).homCongr (Iso.refl _))
 
+namespace PtpEquiv
+
+variable {Γ : Ctx} {X : Psh Ctx}
+
+-- FIXME once `UvPoly.equiv` has been refactored,
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/NaturalModel.lean:271]: Maybe let's leave `Poly` as-is and use the more low-level APIs here only?

File: GroupoidModel/Russell_PER_MS/NaturalModel.lean [hunk 9]
```diff
@@ -385,4 +556,80 @@ structure NaturalModelSigma where
   pair : UvPoly.compDom (uvPolyTp M) (uvPolyTp M) ⟶ M.Tm
   Sig_pullback : IsPullback pair ((uvPolyTp M).comp (uvPolyTp M)).p M.tp Sig
 
+namespace IsPullback
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/NaturalModel.lean:559]: Is this used?

**Review by Vtec234 — APPROVED** [review]
